US07897631B2
4-Oct-7-ynyl-1H-imidazol-2-ylamine hydrochloride (0.098 g, 0.568 mmol) was reacted with (3-Azido-2-methyl-propenyl)-benzene (0.118 g, 0.681 mmol) following the general procedure for click reactions outlined above to produce 4-{6-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-hexyl}-1H-imidazol-2-ylamine hydrochloride (0.147 g, 85%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.42 (s, 1H), δ 7.25-7.15 (m, 5H), δ 6.65 (s, 1H), δ 6.36 (s, 1H), δ 5.23 (s, 2H), δ 2.78 (t, 2H), δ 2.38 (t, 2H), δ 1.74 (s, 3H), δ 1.64 (m, 2H), δ 1.51 (m, 2H), δ 1.33 (m, 4H) ppm; 13C (75 MHz, CD3OD) δ 147.5, 136.3, 132.9, 132.8, 129.9, 128.9, 128.6, 128.5, 128.3, 127.7; HRMS (ESI) calcd for C21H29N6 (M+) 365.2448. found 365.2448.

reactant | 4-Oct-7-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.568 mmol, 0.098 g | Cl.C(CCCCCC#C)C=1N=C(NC1)N
reactant | (3-Azido-2-methyl-propenyl)-benzene | 0.681 mmol, 0.118 g | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
product | 4-{6-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-hexyl}-1H-imidazol-2-ylamine hydrochloride | 0.147 g, 85% | Cl.CC(CN1N=NC(=C1)CCCCCCC=1N=C(NC1)N)=CC1=CC=CC=C1 | InChI=1S/C21H28N6.ClH/c1-17(13-18-9-5-4-6-10-18)15-27-16-20(25-26-27)12-8-3-2-7-11-19-14-23-21(22)24-19;/h4-6,9-10,13-14,16H,2-3,7-8,11-12,15H2,1H3,(H3,22,23,24);1H
